US07566724B2
Under an argon atmosphere, palladium acetate (316.7 mg) and tris(2-methylphenyl)phosphine (411.8 mg) were added to a suspension of 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester (4.09 g), N-(4-iodophenyl)-N-isopropylpyrimidin-2-amine (4.59 g) and potassium carbonate (2.80 g) in DMF (50 ml), and the resulting mixture was stirred at 80° C. for 6 hours. After cooling the reaction solution to room temperature, ethyl acetate was added thereto and the resulting mixture was washed twice with water and once with saturated brine, followed by drying the organic layers over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was purified by column chromatography (silica gel, eluent: cyclohexane/chloroform=2/1→1/2). The obtained crudely purified product was purified again by column chromatography (silica gel, eluent: cyclohexane/ethyl acetate=10/1→4/1) to obtain (E)-2-(2,6-dichlorobenzamido)-5-[4-(isopropyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester (4.65 g).

reactant | tris(2-methylphenyl)phosphine | 411.8 mg | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
reactant | 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester | 4.09 g | COC(C(CC=C)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C13H13Cl2NO3
reactant | N-(4-iodophenyl)-N-isopropylpyrimidin-2-amine | 4.59 g | IC1=CC=C(C=C1)N(C1=NC=CC=N1)C(C)C | C13H14IN3
reactant | potassium carbonate | 2.80 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 316.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-2-(2,6-dichlorobenzamido)-5-[4-(isopropyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester | 4.65 g | COC(C(C\C=C\C1=CC=C(C=C1)N(C1=NC=CC=N1)C(C)C)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C26H26Cl2N4O3
